Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9].[H:10],4.46412547008
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],4.15279799707
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[O:2]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.52459043651
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1],5.97479753689
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.7908435176
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[H:12],5.02193632153
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.8149952892
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],4.88985620439
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]#[C:8].[H:9],5.77941895369
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-1.61261211294
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[O:7][H:8],4.92972289613
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][O:7],4.10061253266
[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.49217189801
[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.04610788869
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9],3.98331057243
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2],5.92998433487
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.02685269593
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],4.5943681532800005
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.46486722541
[C:1]#[C:2][O:3][C:4][C:6](=[O:7])[H:8].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8],-5.0520556697400005
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.83260313662
[H:1][C:2][C:12]([H:13])([H:14])[H:15].[O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.57605321898
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],5.015132153490001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],8.28974537293
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5],-0.24325863346
[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.0197731541
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],1.95682481439
[O:1][C:2]#[C:3][C:4][C:5]([H:6])[H:7]>>[C:4]=[C:5]([H:6])[H:7].[O:1][C:2][C:3],6.39499230887
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-7.40459979
